US08492395B2
To a stirred solution of 4-trifluoromethyl-benzoic acid (0.30 g, 1.6 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1,1′ carbonyldiimidazole (0.29 g, 1.8 mmol), and the mixture was stirred for one hour. Then 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.54 g, 1.6 mmol) was added, and the mixture was stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-4-trifluoromethyl-benzamide as an off-white solid (500 mg, 67% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.33 min (99.1%); mp, 221-223° C.; 1HNMR (DMSO-d6) 2.14-2.20 (m, 1H, CHH), 2.56-2.88 (m, 6H, CHCH2, CH3), 4.62 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.59-8.11 (m, 7H, Ar), 9.40 (t, J=5 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.90, 23.41, 30.60, 42.41, 56.53, 120.03, 123.90 (q, JC-F=253 Hz), 123.95, 125.36 (d, JC-F=3 Hz), 125.45 (d, JC-F=3 Hz), 126.65, 128.14, 131.23 (d, JC-F=31 Hz), 134.11, 137.83, 145.87, 154.64, 160.42, 165.12, 169.45, 172.59. LCMS MH=473; Anal Calcd For C23H19N4O4F3: C, 58.48; H, 4.05; N, 11.86; F, 12.06. Found: C, 58.36; H, 3.96; N, 11.75; F, 11.84.

reactant | 4-trifluoromethyl-benzoic acid | 1.6 mmol, 0.30 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 1,1′ carbonyldiimidazole | 1.8 mmol, 0.29 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.6 mmol, 0.54 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-4-trifluoromethyl-benzamide | 500 mg, 67% yield | O=C1NC(CCC1N1C(=NC2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C23H19F3N4O4
